US06921759B2
Step 5: Preparation of methyl 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate
To a slurry of methyl 5-bromo-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate (7.55 g, 17.27 mmol) in degassed DMF (20 mL) in a pressure tube was added 1,2-thiazinane-1,1-dioxide (2.8 g, 20.7 mmol, prepared as in White et al, J. Org Chem. 1987, 52: 2162) followed by 2,2′-bipyridine (3.24 g, 20.7 mmol) and copper (I) oxide powder (2.96 g, 20.7 mmol). The pressure tube was closed and heated to 118 degrees C. overnight. Celite (0.5 g) was added to the resulting slurry and this was filtered through a plug of DMF wetted celite. The solids were washed with more DMF (10 mL) and the filtrate transferred to a large Erlenmeyer flask (1L) fitted with a 2 inch stirring bar. The volume was brought up to 200 mL with chloroform and a solution of ethylenediaminetetraacetic acid monohydrate (13.3 g, 35.7 mmol) in 140 mL of water was added. The biphasic mixture was vigorously stirred, open to the air, for 3 hours. The organic phase was separated and retreated with another solution of ethylenediaminetetraacetic acid monohydrate (13.3 g, 35.7 mmol) in 140 mL of water overnight (16 hrs). The organic was separated and washed with water and dried over Na2SO4, filtered, and reduced to a small volume in vacuo. The product solidified during solvent reduction. The solid was broken up and dried to afford the desired product.

reactant | methyl 5-bromo-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate | 17.27 mmol, 7.55 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C17H13BrN2O5S
reactant | 1,2-thiazinane-1,1-dioxide | 20.7 mmol, 2.8 g | S1(NCCCC1)(=O)=O | C4H9NO2S
reactant | 2,2′-bipyridine | 20.7 mmol, 3.24 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | ethylenediaminetetraacetic acid monohydrate | 35.7 mmol, 13.3 g | O.C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O
reactant | ethylenediaminetetraacetic acid monohydrate | 35.7 mmol, 13.3 g | O.C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 140 mL | O | H2O
solvent | water | 140 mL | O | H2O
catalyst | copper (I) oxide | 20.7 mmol, 2.96 g | [Cu-]=O
product | methyl 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C21H21N3O7S2
